US04618627
A mixture of 7 g of 10-benzyloxy-1-decanol, 8 ml of thionyl chloride, and 0.2 ml of dimethylformamide was heated to 50° to 60° C. for one hour. After the reaction was over, the reaction mixture was concentrated under reduced pressure, the residue was dissolved in 50 ml of n-hexane, and after washing the solution with water, the solution was dried over anhydrous magnesium sulfate. Then, the solvent was distilled off and the residue was applied to silica gel column chromatography and eluted with toluene to provide 6.7 g of oily 10-benzyloxy-1-chlorodecane. Boiling point 135°-140° C. (0.6-0.9 mm Hg).

reactant | 10-benzyloxy-1-decanol | 7 g | C(C1=CC=CC=C1)OCCCCCCCCCCO | C17H28O2
reactant | thionyl chloride | 8 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dimethylformamide | 0.2 ml | CN(C=O)C | C3H7NO
product | 10-benzyloxy-1-chlorodecane | 6.7 g | C(C1=CC=CC=C1)OCCCCCCCCCCCl | C17H27ClO
